US07002025B2
I. Preparation of Phthalide Acid (1)
Terephthalic acid was suspended in 25-30% oleum. Trioxane was added and the mixture was heated to 140-150° C. for 4-8 hours. The reaction mixture was cooled and then quenched by cautious addition of water at less than 80° C. The resulting suspension was cooled to about 40° C. and the solid was filtered off. The filter cake was washed with water followed by propan-2-ol before slurrying the solid in propan-2-ol at reflux for 30 minutes. After cooling to 20-25° C. the product was filtered off, washed with propan-2-ol and dried at 60-70° C. under reduced pressure.

reactant | Terephthalic acid | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
reactant | Trioxane | O1OOCCC1 | C3H6O3
solvent | oleum | OS(=O)(=O)O.O=S(=O)=O
product | Phthalide | C1(=O)OCC2=CC=CC=C12 | C8H6O2
